US06310079B1
A mixture of 4-cyano-2-nitroaniline (10.8 g, 66 mmol), 2-bromopyridine (12.6 g, 80 mmol), anhydrous potassium carbonate (9.12 g, 66 mmol) and copper-bronze (1.0 g, 15.7 mmol) in nitrobenzene (100 ml) was heated overnight at 200° C. The reaction mixture was cooled and filtered through a pad of celite. The filter cake was washed with dichloromethane (500 ml) and the filtrate was evaporated. The resultant residue was purified by column chromatography (silica gel, 500 g; n-hexane/ethyl acetate/dichloromethane (4/1/1)) to afford 7.28 g (46%) of 4-cyano-2-nitro-N-(2-pyridyl)aniline as orange solids.

reactant | 4-cyano-2-nitroaniline | 66 mmol, 10.8 g | C(#N)C1=CC(=C(N)C=C1)[N+](=O)[O-] | C7H5N3O2
reactant | 2-bromopyridine | 80 mmol, 12.6 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | potassium carbonate | 66 mmol, 9.12 g | C([O-])([O-])=O.[K+].[K+]
solvent | nitrobenzene | 100 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 4-cyano-2-nitro-N-(2-pyridyl)aniline | 7.28 g, 46% | C(#N)C1=CC(=C(NC2=NC=CC=C2)C=C1)[N+](=O)[O-] | C12H8N4O2
